US04775671
7.3 g (25 mmol) of 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid are suspended in 50 ml of N,N-dimethylformamide, whereupon the suspension is treated with 5.67 g (34 mmol) of 1,1'-carbonyldiimazole and the mixture is stirred at room temperature for a further 0.75 hour and subsequently at 60° for 2 hours. The mixture is then poured into 100 ml of water, the product is filtered off under suction after 1 hour, rinsed with water and dried at 80° in a high vacuum. There is obtained 1-[[7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepin-3-yl]carbonyl]imidazole of decomposition point 242°-244°.

reactant | 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | 25 mmol, 7.3 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)O)C)=O | C13H10ClN3O3
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-[[7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepin-3-yl]carbonyl]imidazole | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)N1C=NC=C1)C)=O | C16H12ClN5O2
